US04182759
[II; Ar is 2-Cl-4-CH3OC6H3, Y is O(CH2)5, R is C2H5, R' is CH3CO] was prepared from 0.71 g of lithium hydride, 17.2 g of diethyl acetonylphosphonate and 34 g of 5-(2-chloro-4-methoxyphenoxy)pentyl iodide according to the procedure of Example 12(b). The product was chromatographed on Florisil and further purified by preparative TLC on silica gel to give 6.3 g of diethyl [1-acetyl-6(2-chloro-4-methoxyphenoxy)hexyl]phosphonate as a light yellow oil; MIC vs. herpes simplex type 2=6 mcg/ml. The IR spectrum was consistent with the assigned structure.

reactant | lithium hydride | 0.71 g | [H-].[Li+]
reactant | diethyl acetonylphosphonate | 17.2 g | C(C(=O)C)P(OCC)(OCC)=O | C7H15O4P
reactant | 5-(2-chloro-4-methoxyphenoxy)pentyl iodide | 34 g | ClC1=C(OCCCCCI)C=CC(=C1)OC | C12H16ClIO2
product | diethyl [1-acetyl-6(2-chloro-4-methoxyphenoxy)hexyl]phosphonate | 6.3 g | C(C)(=O)C(CCCCCOC1=C(C=C(C=C1)OC)Cl)P(OCC)(OCC)=O | C19H30ClO6P
